US06465455B1
N-[2-chloro-5-(3-dimethylaminobenzamido)phenyl]-3,4-dimethoxybenzamide
Oxalyl chloride (0.11 ml) was added dropwise to a stirred suspension of 3-dimethylaminobenzoic acid (0.18 g) in methylene chloride (10 ml) at 20° C. DMF (2 drops) was added and the reaction mixture was stirred for 4 hours. The solvent was evaporated to give a solid. The solid was dissolved in methylene chloride (15 ml) and added dropwise over 5 minutes to a stirred mixture of N-(5-amino-2-chlorophenyl)-3,4-dimethoxybenzamide (0.306 g), triethylamine (0.4 ml), 4-dimethylaminopyridine (0.005 g) and methylene chloride (5 ml). The resultant mixture was stirred at 20° C. for 18 hours. The reaction mixture was washed with water and with a saturated, aqueous sodium bicarbonate solution, dried (MgSO4) and evaporated. The residual oil was purified by column chromatography on silica gel using a 99:1 mixture of methylene chloride and methanol as eluent. There was thus obtained the title compound (0.109 g), m.p. 98-99° C.;

reactant | Oxalyl chloride | 0.11 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-dimethylaminobenzoic acid | 0.18 g | CN(C=1C=C(C(=O)O)C=CC1)C | C9H11NO2
reactant | N-(5-amino-2-chlorophenyl)-3,4-dimethoxybenzamide | 0.306 g | NC=1C=CC(=C(C1)NC(C1=CC(=C(C=C1)OC)OC)=O)Cl | C15H15ClN2O3
reactant | triethylamine | 0.4 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.005 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | N-[2-chloro-5-(3-dimethylaminobenzamido)phenyl]-3,4-dimethoxybenzamide | 0.109 g | ClC1=C(C=C(C=C1)NC(C1=CC(=CC=C1)N(C)C)=O)NC(C1=CC(=C(C=C1)OC)OC)=O | C24H24ClN3O4
